US05478856
A 8.1 g (44.5 mmol) of syringaldehyde, 7.2 g (44.4 mmol) of ethyl a-dimethylcarbamoylacetate and 6.6 ml (66.7 mmol) of piperidine in 150 ml of ethanol solution was stirred at 110° C. for about 12 hours. The mixture was concentrated under reduced pressure and purified by silica gel column chromatography (methanol/chloroform=2-4%). An oily product thus obtained was dissolved in 50 ml of tetrahydrofuran. To the solution was added an aqueous potassium hydroxide solution (4.3 g/10 ml), and the solution was stirred at room temperature for 15 hours. A 50 ml of ethyl acetate was added to the solution. The mixture was extracted with 100 ml of water. The aqueous layer was acidified with conc. hydrochloric acid and extracted with 120 ml of methylene chloride. The organic layer was dried over anhydrous magnesium sulfate and evaporated under reduced pressure to give 4.6 g (yield 35%) of objective α-dimethylcarbamoyl-3,5-dimethoxy-4-hydroxycinnamic acid.

reactant | syringaldehyde | 44.5 mmol, 8.1 g | C(C1=CC(OC)=C(O)C(OC)=C1)=O | C9H10O4
reactant | ethyl a-dimethylcarbamoylacetate | 44.4 mmol, 7.2 g | CN(C(=O)CC(=O)OCC)C | C7H13NO3
reactant | piperidine | 66.7 mmol, 6.6 ml | N1CCCCC1 | C5H11N
reactant | potassium hydroxide | 10 ml, 4.3 g | [OH-].[K+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | α-dimethylcarbamoyl-3,5-dimethoxy-4-hydroxycinnamic acid | 4.6 g, yield 35% | CN(C(=O)C(C(=O)O)=CC1=CC(=C(C(=C1)OC)O)OC)C | C14H17NO6
